US08877774B2
Step 1. 2-(4-Bromobenzyl)-1,3-dioxolane
To a cooled (0° C.) solution of 4-bromophenethylalcohol (3.9 g, 19.4 mmol) in DCM (50 mL), was added the Dess-Martin reagent (8.22 g, 19.4 mmol). After 10 minutes, the coolant was removed, and the reaction mixture was stirred at ambient temperature for 2 hours. The reaction mixture was quenched with 10% aqueous potassium carbonate, and the mixture was separated. The aqueous phase was extracted with further DCM (×2), and the combined organic phases were dried with anhydrous magnesium sulphate, and the solvent evaporated at reduced pressure. The crude material was purified by silica gel chromatography eluting with 100% iso-hexane to 50% ethyl acetate in iso-hexane to afford a oil. The oil was dissolved in toluene (35 mL), para-toluenesulfonic acid—monohydrate (0.1 g, 0.52 mmol) and ethylene glycol (5.3 mL, 94.2 mmol) was added, and the mixture heated at reflux under Dean and Stark conditions for 2 hours. The solvent was evaporated at reduced pressure and the residue dissolved in ethyl acetate. The solution was washed with 10% aqueous potassium carbonate, dried with anhydrous magnesium sulfate, and the solvent evaporated at reduced pressure. The crude material was purified by silica gel chromatography eluting with 100% iso-hexane to 50% ethyl acetate in iso-hexane to afford an oil (2.3 g, 49%).

reactant | 4-bromophenethylalcohol | 19.4 mmol, 3.9 g | BrC1=CC=C(CCO)C=C1 | C8H9BrO
reactant | Dess-Martin reagent | 19.4 mmol, 8.22 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | ethylene glycol | 94.2 mmol, 5.3 mL | C(CO)O | C2H6O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
catalyst | para-toluenesulfonic acid—monohydrate | 0.52 mmol, 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-(4-Bromobenzyl)-1,3-dioxolane | 2.3 g, 49% | BrC1=CC=C(CC2OCCO2)C=C1 | C10H11BrO2
